US09193718B2
0.3 g (1 mmol) of (6,7-bis(2-methoxyethoxy))-4-chloro-quinazoline was dissolved in 5 mL dry isopropanol. Under stirring, a solution of 0.175 g (1 mmol) of 5-hydroxy3-phenyl-isoxazole in 5 mL of isopropanol was slowly added dropwise to the reaction system, followed by the addition 0.101 g (1 mmol) of freshly distilled triethylamine. After the system was stirred at room temperature for 30 min, the reaction was hold at 60. After the completion of the reaction monitored by TLC, the reaction solution was concentrated under vacuum. The residue was directly separated by column chromatography (Vpetroleum ether:Vethyl acetate=5:1-2:1) to give the target compound of (6,7-bis(2-methoxyethoxy))-4-((3-(4-methylphenyl)-isoxazol-5-yl))-methoxy-)-quinazoline (i.e. Q-15 in the following Table). The other compounds were synthesized according to the synthetic process of (6,7-bis(2-methoxyethoxy))-4-((3-(4-methylphenyl)-isoxazol-5-yl))-methoxy-)-quinazoline. The structures were characterized by analytic methods such as IR, 1H NMR, ESI-MS, etc. The physical constants and spectral data of preferred compounds were indicated in the form of table.

reactant | (6,7-bis(2-methoxyethoxy))-4-chloro-quinazoline | 1 mmol, 0.3 g | COCCOC=1C=C2C(=NC=NC2=CC1OCCOC)Cl | C14H17ClN2O4
reactant | 5-hydroxy3-phenyl-isoxazole | 1 mmol, 0.175 g | OC1=CC(=NO1)C1=CC=CC=C1 | C9H7NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | quinazoline | N1=CN=CC2=CC=CC=C12 | C8H6N2
